datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])([H:12])[H:13].[H:34]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[H:11][H:34],0.0
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20])[H:7],27.7818
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[H:9])[H:8])([H:6])[H:7].[O:4]([C:5]([H:13])([H:14])[H:15])[H:16],62.7219
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[S:7]([C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])[H:16])[H:15]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8]([S:7][H:15])([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])[H:16],100.081
[C:0]([N:1]([H:4])[H:5])([H:2])[H:3]>>[C:0]([N:1][H:5])([H:2])[H:3].[H:4],200.066328
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21](=[C:22]([C:23]([C:24](=[C:25]([H:31])[H:32])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:23]([C:22](=[C:21]([H:26])[H:27])[H:28])([C:24](=[C:25]([H:31])[H:32])[H:30])[H:29])[H:11])([H:9])[H:10],64.8102
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[H:30])([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:25]([C:24]([H:27])([H:28])[H:29])([C:26]([H:31])([H:32])[H:33])[H:30])[H:14])([H:12])[H:13],21.171
[O:0]=[S:1][O:2][H:3].[O:4]([S:5])[H:6]>>[H:3][S:5][O:4][H:6].[O:0]=[S:1]=[O:2],0.0
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:21]([C:20](=[C:19]([H:23])[H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26])[H:9],39.8735
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]=[C:9]([H:11])[H:12])[H:10]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:7](=[C:8]=[C:9]([H:11])[H:12])[H:10])([H:3])[H:4],54.8104
[C:0]([C:1]([O:2][O:3][H:13])([C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([H:17])([H:18])[H:19])[O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([O:2][O:3][H:13])([C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([H:17])([H:18])[H:19])[O:7][O:8][H:9])[H:12])([H:10])[H:11],91.6296
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](=[C:17]([C:18]([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:8],53.9736
[H:0].[S:1][S:2][H:3]>>[H:0][S:2][H:3].[S:1],26.48472
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[O:31][O:32]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])[H:11].[H:12][O:31][O:32],0.0
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:17])([H:15])[H:16])([H:13])[H:14])([C:6]([O:7][O:8])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:17])([H:15])[H:16])([H:13])[H:14])([C:6]([O:7][O:8][H:9])([H:18])[H:19])[H:12])([H:10])[H:11],89.956
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[S:4][H:14])([H:5])([H:6])[H:7].[C:15]([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[S:4][C:15]([H:16])([H:17])[H:18])([H:5])([H:6])[H:7].[H:14],74.8936
[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:10][O:11][H:12]>>[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:6])[H:7].[H:5][O:10][O:11][H:12],70.5004
